US04490369
(b) 1-Chloro-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}-ethyl)-amino]-propane
275 gm of benzenesulfonic acid chloride were added to 4 gm of 3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}-ethyl)amino]-propanol. After standing for 30 minutes, the mixture was dissolved in methylene chloride, washed with an aqueous 30% sodium hydroxide solution and water, dried over sodium sulfate and evaporated in vacuo. After purifying the residue on a silica gel column (eluant: methylene chloride/ethanol) a colorless oil was obtained.

reactant | benzenesulfonic acid chloride | 275 gm | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}-ethyl)amino]-propanol | 4 gm | CN(CCC1=CC(=C(C=C1)OC)OC)CCCO | C14H23NO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-Chloro-3-[N-methyl-N-(2-{3,4-dimethoxy-phenyl}-ethyl)-amino]-propane | ClCCCN(CCC1=CC(=C(C=C1)OC)OC)C | C14H22ClNO2
